* source PROJECT2_1
M_M1         N00763 N00763 N00741 N00741 ORBIT2L2P  
+ L=2u  
+ W=20u         
M_M2         N00797 N00763 N00741 N00741 ORBIT2L2P  
+ L=2u  
+ W=108u         
M_M3         N00886 N00790 N00797 N00797 ORBIT2L2P  
+ L=2u  
+ W=200u         
M_M4         N00921 N00870 N00797 N00797 ORBIT2L2P  
+ L=2u  
+ W=200u         
M_M5         N00886 N00886 0 0 ORBIT2L2N  
+ L=2u  
+ W=200u         
M_M6         N00913 N00886 0 0 ORBIT2L2N  
+ L=2u  
+ W=200u         
M_M7         N00921 N00917 N00913 N00913 ORBIT2L2N  
+ L=2u  
+ W=200u         
M_M8         VOUT N00763 N00741 N00741 ORBIT2L2P  
+ L=2u  
+ W=100u         
M_M9         VOUT N00921 0 0 ORBIT2L2N  
+ L=2u  
+ W=100u         
I_IREF         N00763 0 DC 100uA  
V_V1         N00877 0 0.5V
V_VDD         N00741 0 2.5V
V_VB1         N00917 0 1.0575V
R_R1         N00953 N00921  1.5k TC=0,0 
C_C1         N00953 VOUT  10pF  TC=0,0 
C_CL         VOUT 0  20pF  TC=0,0 
V_V2         N00790 N00877 DC 0Vdc AC 0.5V 
V_V3         N00870 N00877 DC 0Vdc AC -0.5V 
